US09029363B2
A. Preparation of Telmisartan Hydrochloride
411 g of tert-butyl 4′-[[2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)benzimidazol-1-yl]methyl]biphenyl-2-carboxylate is suspended in 822 mL of glacial acetic acid and combined with 213 g of concentrated aqueous hydrochloric acid (37%). The mixture is refluxed and about 640 mL of solvent is distilled off. The residue remaining is slowly combined with about 620 mL of water at 50° C. to 60° C. To this mixture is added 20 g of activated charcoal (e.g., Norit SX 2 Ultra) and the resulting mixture is stirred for about 10 minutes at constant temperature. After filtering, the residue is washed three times with 25 mL of glacial acetic acid and about 620 mL of water. The filtrate obtained is again heated to about 50° C. to 60° C. and about 2 L of water are added. After stirring for about 12 hours at about 23° C., the crystals formed are suction filtered and washed twice with about 500 mL of water, once with about 900 mL of acetone, and then dried at about 60° C. Yield: 367 g (92.5%) colorless crystals, melting point: 278° C.

reactant | tert-butyl 4′-[[2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)benzimidazol-1-yl]methyl]biphenyl-2-carboxylate | 411 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C37H38N4O2
reactant | hydrochloric acid | 213 g | Cl | ClH
reactant | water | about 2 L | O | H2O
solvent | acetic acid | 822 mL | C(C)(=O)O | C2H4O2
product | Telmisartan Hydrochloride | CCCC1=NC=2C(=CC(=CC2N1CC=3C=CC(=CC3)C=4C=CC=CC4C(=O)O)C5=NC=6C=CC=CC6N5C)C.Cl | InChI=1S/C33H30N4O2.ClH/c1-4-9-30-35-31-21(2)18-24(32-34-27-12-7-8-13-28(27)36(32)3)19-29(31)37(30)20-22-14-16-23(17-15-22)25-10-5-6-11-26(25)33(38)39;/h5-8,10-19H,4,9,20H2,1-3H3,(H,38,39);1H
